US07531532B2
4-(1-Methylazetidin-3-yl)piperazine-1-carboxylic acid [4-(4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)pyridin-2-yl]amide
To a solution of 4-(1-methylazetidin-3-yl)piperazine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide (100 mg) in tetrahydrofuran (5.0 ml) was added a solution of 2-(4-fluorophenyl)acetyl isocyanate in ethyl acetate (0.25 M, 2.61 ml) at room temperature, followed by stirring at room temperature for 4.5 hrs. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate:methanol=100:7). Fractions containing a target compound were concentrated to give a residue, to which diethyl ether was added to give a precipitate. The precipitate was suspended in the solvent. Then the precipitate was filtered off, washed with diethyl ether, and dried under aeration to provide the titled compound (70.4 mg, 48.0%) as pale yellow powder.

reactant | 4-(1-methylazetidin-3-yl)piperazine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide | 100 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CN(C2)C)C=C1 | C20H26N6O2
reactant | 2-(4-fluorophenyl)acetyl isocyanate | FC1=CC=C(C=C1)CC(=O)N=C=O | C9H6FNO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 0.25 M, 2.61 ml | C(C)(=O)OCC | C4H8O2
product | 4-(1-Methylazetidin-3-yl)piperazine-1-carboxylic acid [4-(4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)pyridin-2-yl]amide | 70.4 mg, 48.0% | FC1=CC=C(C=C1)CC(=O)NC(NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CN(C2)C)C=C1)=O | C29H32FN7O4
